US07378525B2
(3S, 4S)-3-methyl-4-(1-(R)-phenyl-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester
(±)-3-Methyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester (5.4 g, 25.3 mmol) was dissolved in dichloromethane (75 mL). R-(+)-α-Methylbenzylamine (3.1 g, 3.2 mL, 25.3 mmol) was added followed by sodium triacetoxyborohydride (10.7 g, 50.6 mmol). The reaction was stirred overnight at room temperature. LC/MS analysis revealed four components, with only one component clearly separated. The reaction was diluted with dichloromethane (150 mL) and extracted twice with water, once with brine and dried over MgSO4. Filtration and concentration in vacuo afforded a white foam that was purified by flash column chromatography (84.5:15:0.5 CH2Cl2:acetonitrile:NH4OH) to afford a clear oil. The material was rechromatographed (89.5:10:0.5 CH2Cl2:acetonitrile:NH4OH) to afford the title compound as a clear oil. Wt.: 547 mg (7%). 1H NMR (300 MHz, CDCl3) δ7.31 (m, 3H), 7.22 (m, 2H), 3.85 (m, 3H), 2.68 (m, 1H), 2.46 (m. 1H), 2.17 (m, 1H), 1.67 (m, 1H), 1.40 (s, 9H), 1.30 (d, 3H), 1.08 (m, 2H), 0.97 (d, 3H); LC/MS m/z 319 (M+H)+.

reactant | (±)-3-Methyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 25.3 mmol, 5.4 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C | C11H19NO3
reactant | R-(+)-α-Methylbenzylamine | 25.3 mmol, 3.2 mL, 3.1 g | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | sodium triacetoxyborohydride | 50.6 mmol, 10.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | (3S, 4S)-3-methyl-4-(1-(R)-phenyl-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)N[C@H](C)C1=CC=CC=C1)C | C19H30N2O2
